US07319102B1
Preparation of 7-(4-fluorophenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid (2-chlorophenyl)-amide (26):
To a solution of 7-(4-fluoro-phenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine-6-carbonyl chloride, 25, (0.57 g, 1.77 mmol) in dichloromethane (10 mL) is added 2-chloroaniline (0.28 mL, 2.66 mmol) and triethylamine (0.74 mL, 5.3 mmol). The mixture is allowed to stir at ambient temperature for 16 hours. The reaction was diluted with H2O and extracted three times with EtOAc. The combined organic phases are rinsed with brine, dried (MgSO4), filtered and concentrated in vacuo wherein the crude residue is purified over silica (5% to 40% EtOAc/hexanes) to afford 365 mg the desired product: 1H NMR (300 MHz, CDCl3) δ 9.00 (s, 1H), 8.42 (d, J=8.2 Hz, 1H), 8.32 (br s, NH), 7.55-7.50 (m, 2H), 7.42 (d, J=8.2 Hz, 1H), 7.36-7.20 (m, 3H), 7.12 (t, J=8.7 Hz, 1H), 2.49 (s, 3H); ESI+ MS: m/z (rel intensity) 413.0 (100, M++H).

reactant | 7-(4-fluoro-phenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine-6-carbonyl chloride | FC1=CC=C(C=C1)N1C(=CC2=C1N=C(N=C2)SC)C(=O)Cl | C14H9ClFN3OS
reactant | 2-chloroaniline | 2.66 mmol, 0.28 mL | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | triethylamine | 5.3 mmol, 0.74 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | H2O | O | H2O
product | 7-(4-fluorophenyl)-2-methylsulfanyl-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid (2-chlorophenyl)-amide | 365 mg | ClC1=C(C=CC=C1)NC(=O)C1=CC2=C(N=C(N=C2)SC)N1C1=CC=C(C=C1)F | C20H14ClFN4OS
